US07576165B2
Synthesis of 2-(4-(pyrimidin-2-ylthio)butylthio)pyrimidine
20 mmole of 2-mercaptopyrimidine was dissolved in 20 ml of ethanol with stirring. 20 mole of EtOK (24 weight % in ethanol) was added to the solution, stirred for 5 minutes. Then, about 10 mmole of 1,4-diiodobutane was added, and stirred overnight. The white precipitate was removed by filtration, the solvent in the filtrate was removed in vacuum. The obtained solid was dissolved in CH2Cl2, and separated with a Si gel column (solvents: 1 ethylacetate/1 hexane in volume). Yield: 86%. 1H NMR (CDCl3) of PyrC4: δ(ppm) 8.50 (4H, d, JH-H=4.77), 6.94 (2H, t, JH-H=4.77), 3.20 (4H, t, JH-H=6.93), and 1.91 (4H, t, JH-H=6.93).

reactant | 2-mercaptopyrimidine | 20 mmole | SC1=NC=CC=N1 | C4H4N2S
reactant | EtOK | 20 mole | C(C)O[K]
reactant | 1,4-diiodobutane | about 10 mmole | ICCCCI | C4H8I2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4-(pyrimidin-2-ylthio)butylthio)pyrimidine | Yield: 86% | N1=C(N=CC=C1)SCCCCSC1=NC=CC=N1 | C12H14N4S2
